US07592373B2
4.30.b. 3-chloro-4-piperidin-1-ylmethylphenylamine
Prepared analogously to Example 3.1.b. from 1-(2-chloro-4-nitrobenzyl)piperidine. Yield: 1.88 g (90% of theory); C12H17ClN2 (M=224.73); calc.: molecular ion peak (M+H)+: 225/227 (Cl); found: molecular ion peak (M+H)+: 225/227 (Cl); Rf value: 0.2 (silica gel, dichloromethane/methanol (9:1)).

reactant | 1-(2-chloro-4-nitrobenzyl)piperidine | ClC1=C(CN2CCCCC2)C=CC(=C1)[N+](=O)[O-] | C12H15ClN2O2
solvent | dichloromethane methanol | ClCCl.CO
product | 3-chloro-4-piperidin-1-ylmethylphenylamine | ClC=1C=C(C=CC1CN1CCCCC1)N | C12H17ClN2
